US05116402
Preparation of trichloro-acetaldehyde diamyl-acetal
A mixture of 5 g of chloral-hydrate, 10 ml of amyl-alcohol, 0.1 g of 4-methyl-sulphonic acid and 50 ml of benzene is kept at reflux temperature and the formed water is separated by means of a Dean-Stark apparatus. After a reaction time of 9 hours the benzene is washed with a sodium hydrogen carbonate solution and water, dried on magnesium sulfate, then it is vacuum-distilled.

reactant | chloral-hydrate | 5 g | O.O=CC(Cl)(Cl)Cl
reactant | amyl-alcohol | 10 ml | C(CCCC)O | C5H12O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trichloro-acetaldehyde diamyl-acetal | C(CCCC)OC(C(Cl)(Cl)Cl)OCCCCC | C12H23Cl3O2
